US05241071
A mixture formed by adding 0.77 g (0.0043 mole) of N-(perfluoropropionyl)hydrazine to a solution of 1.05 g (0.0043 mole) of 4,4,4-trinitrobutyryl chloride in 30 mL of anhydrous diethyl ether was stirred at 20° C during the dropwise addition of 0.35 mL of pyridine. After 5 minutes, dilute hydrochloric acid (10 mL) was added, and the ether layer was separated and dried (MgSO4). Removal of volatiles gave a semisolid which was stirred with dilute sodium bicarbonate to give 1.0 g, mp 105°-118° C. Crystallization from 1,2-dichloroethane gave the product, N-(4,4,4-trinitrobutyryl)-N'-(perfluoropropionyl)hydrazine, 0.65 g (41%), mp 123°-125° C.; 1H NMR (acetone-d6 +D2O): 2.95 (t, 2H); 3.85 (t, 2H).

reactant | N-(perfluoropropionyl)hydrazine | 0.0043 mole, 0.77 g | FC(C(=O)NN)(C(F)(F)F)F | C3H3F5N2O
reactant | 4,4,4-trinitrobutyryl chloride | 0.0043 mole, 1.05 g | [N+](=O)([O-])C(CCC(=O)Cl)([N+](=O)[O-])[N+](=O)[O-] | C4H4ClN3O7
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | pyridine | 0.35 mL | N1=CC=CC=C1 | C5H5N
product | N-(4,4,4-trinitrobutyryl)-N'-(perfluoropropionyl)hydrazine | [N+](=O)([O-])C(CCC(=O)NNC(C(C(F)(F)F)(F)F)=O)([N+](=O)[O-])[N+](=O)[O-] | C7H6F5N5O8
